US08865682B2
A suspension of 5,5-dimethyl-4-pyrrolidin-1-ylfuran-2(5H)-one (535 mg) in a mixture of MeOH (2 mL) and 5M HCl (8 mL) was heated at 88° C. for 2 hours. The mixture was cooled to room temp., extracted with CHCl3 (10×15 mL), combined, dried over Na2SO4, and evaporated to dryness to give 4-hydroxy-5,5-dimethyl-5H-furan-2-one as light brown solid. Yield: 359 mg, 95%.

reactant | 5,5-dimethyl-4-pyrrolidin-1-ylfuran-2(5H)-one | 535 mg | CC1(C(=CC(O1)=O)N1CCCC1)C | C10H15NO2
reactant | MeOH | 2 mL | CO | CH4O
solvent | HCl | 5M, 8 mL | Cl | ClH
product | 4-hydroxy-5,5-dimethyl-5H-furan-2-one | OC1=CC(OC1(C)C)=O | C6H8O3
